US05206240
A solution of 8-[2-(benzofurazan-5-yl)ethyl]-1,4-dioxa-8-aza spiro[4.5]decane (20.0 g, 69.1 mmol) in 1N aqueous HCl (200 mL, 200 mmol) was heated to reflux for 1.5 hr. The cooled solution was adjusted to pH 8.5 with 40% aqueous sodium hydroxide and extracted with ethyl acetate (250 mL then 100 mL). The combined extracts were washed twice with 1N aqueous HCl (200 mL combined). The acid layers were heated to reflux for 1 hr and then cooled. Basification as above, extraction into ethyl acetate, drying (Na2SO4), concentration, and trituration with hexanes afforded 1-[2-(benzofurazan-5-yl)ethyl]piperidin-4-one as a solid 14.9 g (88%). HPLC: Rt=3.0 min, 90:10 (0.1% H3PO4 in water: acetonitrile) flow=2.0 mL/min, Waters C18 micro bondapak 25 cmL.

reactant | 8-[2-(benzofurazan-5-yl)ethyl]-1,4-dioxa-8-aza spiro[4.5]decane | 69.1 mmol, 20.0 g | N1=C2C(=NO1)C=C(C=C2)CCN2CCC1(OCCO1)CC2 | C15H19N3O3
reactant | HCl | 200 mmol, 1N, 200 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-[2-(benzofurazan-5-yl)ethyl]piperidin-4-one | 14.9 g, 88% | N1=C2C(=NO1)C=C(C=C2)CCN2CCC(CC2)=O | C13H15N3O2
